US07750034B2
Step B: tert-Butyl 3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate
To a dichloromethane (60 mL) solution of tert-butyl trans-3-amino-4-hydroxypyrrolidine-1-carboxylate made in Step A (2.0 g) was added triethylamine (1.57 mL), di-tert-butyldicarbonate (11.3 mL, 1.0M in tetrahydrofuran) and the mixture stirred overnight at room temperature. The solution was then evaporated under reduced pressure and purified on Biotage Horizon® system (silica, gradient 40-100% ethyl acetate in dichloromethane) to yield the title compound.

reactant | dichloromethane | 60 mL | ClCCl | CH2Cl2
reactant | tert-butyl trans-3-amino-4-hydroxypyrrolidine-1-carboxylate | N[C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C | C9H18N2O3
reactant | di-tert-butyldicarbonate | 1.0M, 11.3 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | triethylamine | 1.57 mL | C(C)N(CC)CC | C6H15N
product | tert-Butyl 3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate | C(C)(C)(C)OC(=O)NC1CN(CC1O)C(=O)OC(C)(C)C | C14H26N2O5
